US08466199B2
The reaction of ethyl 4-hydroxybenzoate and allyl bromide in 2-butanone in the presence of potassium carbonate was performed as described in Example 2 to give 4-Allyloxy-benzoic acid as white powder. 1H-NMR (400 MHz, d6-DMSO): 12.56 (s, —CO2H); 7.83 (d-like, J=8.0, 2 arom. H); 6.97 (d-like, J=8.0, 2 arom. H); 5.99 (m, —CH═CH2); 5.38, 5.24 (2 d-like, —CH═CH2); 4.59 (d-like, CH2—CH═CH2); 13C-NMR (100 MHz, d6-DMSO): 166.92 (—C═O); 161.72; 133.17; 131.28 (2 arom. C); 123.04; 117.80; 114.42 (2 arom. C); 68.34.

reactant | ethyl 4-hydroxybenzoate | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | CC(CC)=O | C4H8O
product | 4-Allyloxy-benzoic acid | C(C=C)OC1=CC=C(C(=O)O)C=C1 | C10H10O3
